US05012004
To a suspension of sodium hydride (60% oil dispersion; 4.0 g) in N,N-dimethylformamide (100 ml), 4-phenoxyphenol (18.6 g) was added at a temperature of 0 to 5° C., and the resultant suspension was stirred at room temperature for 1 hour. 2-Fluoroethyl methanesulfonate (14.2 g) was added thereto. The resulting mixture was stirred at room temperature for 12 hours. The reaction mixture was subjected to post-treatment as in Example 1 to give 1-(2-fluoroethoxy)-4-phenoxybenzene (Compound No. 22) (20.0 g). nD25.0 1.5622.

reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | 4-phenoxyphenol | 18.6 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | 2-Fluoroethyl methanesulfonate | 14.2 g | CS(=O)(=O)OCCF | C3H7FO3S
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-fluoroethoxy)-4-phenoxybenzene | 20.0 g | FCCOC1=CC=C(C=C1)OC1=CC=CC=C1 | C14H13FO2
